US09169272B2
(5-((2-mercapto-2-methylpropylthio)methyl)-1,3-phenylene)dimethanol (0.120 g, 0.440 mmol) was dissolved in ethanol (5 mL) and 1.0 M potassium phosphate buffer (pH 7) (5.00 mL) and cooled in an ice bath (a ppt formed but it was ignored). S-methyl methanesulfonothioate (0.083 mL, 0.881 mmol) was added and the mixture stirred overnight with gradual (over 30 minutes) warming to room temperature. The reaction was diluted with dichloromethane and the organic layer was removed, washed with water, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was dissolved in dichloromethane and loaded onto a 500 micron ptlc plate and developed with 66% ethyl acetate in hexane. The band corresponding to the product was scraped, filtered using ethyl acetate, and concentrated to give (5-((2-methyl-2-(methyldisulfanyl)propylthio)methyl)-1,3-phenylene)dimethanol (0.091 g, 0.286 mmol, 64.9% yield). 1H NMR (400 Hz, CDCl3): δ 7.27 (s, 3H), 4.71 (s, 4H), 3.78 (s, 2H), 2.77 (s, 2H), 2.41 (s, 3H), 1.94 (br s, 2H), 1.38 (s, 6H); 13C NMR (400 Hz, CDCl3): δ 141.6, 139.0, 126.7, 124.2, 65.0, 51.8, 44.0, 38.2, 26.7, 25.3; MS (m/z), expected: 341.5, found 341.1 (M+Na). See FIG. 30.

reactant | (5-((2-mercapto-2-methylpropylthio)methyl)-1,3-phenylene)dimethanol | 0.440 mmol, 0.120 g | SC(CSCC=1C=C(C=C(C1)CO)CO)(C)C | C13H20O2S2
reactant | potassium phosphate | 1.0 M, 5.00 mL, pH 7 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | S-methyl methanesulfonothioate | 0.881 mmol, 0.083 mL | CS(=O)(SC)=O | C2H6O2S2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (5-((2-methyl-2-(methyldisulfanyl)propylthio)methyl)-1,3-phenylene)dimethanol | 0.286 mmol, 0.091 g, 64.9% yield | CC(CSCC=1C=C(C=C(C1)CO)CO)(C)SSC | C14H22O2S3
